US08309577B2
To N-(3,5-dichloropyridin-2-ylcarbamothioyl)benzamide (5.2 g, 16 mmol) in NMP (40 mL) was added sodium methoxide (1.73 g, 32.0 mmol). The mixture was heated in a 120° C. oil bath for 4 h, cooled to ambient temperature and poured into water. The solids were collected by filtration and purified on by silica gel chromatography (0-5% (9:1 MeOH:NH4OH)/chloroform) to give N-(6-chlorothiazolo[4,5-b]pyridin-2-yl)benzamide (364 mg, 1.256 mmol, 7.85% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.16 (br. s., 1H) 8.48-8.58 (m, 2H) 8.13-8.23 (m, 2H) 7.61-7.69 (m, 1H) 7.56 (t, J=7.53 Hz, 2H). MS (LC/MS) R.T.=2.8; [M+H]+=290.1.

reactant | N-(3,5-dichloropyridin-2-ylcarbamothioyl)benzamide | 16 mmol, 5.2 g | ClC=1C(=NC=C(C1)Cl)NC(=S)NC(C1=CC=CC=C1)=O | C13H9Cl2N3OS
reactant | sodium methoxide | 32.0 mmol, 1.73 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | NMP | 40 mL | CN1CCCC1=O | C5H9NO
product | N-(6-chlorothiazolo[4,5-b]pyridin-2-yl)benzamide | 1.256 mmol, 364 mg, 7.85% yield | ClC=1C=C2C(=NC1)N=C(S2)NC(C2=CC=CC=C2)=O | C13H8ClN3OS
